US05430150
N-L-leucyl-L-phenylalanine methyl ester
The title compound is prepared by the procedure of Example 7 using 0.50 g of L-leucine-L-phenylalanine, 10 ml of methyl alcohol and 0.536 ml of trimethylsilyl chloride to give 0.53 g of the desired product.

reactant | L-leucine L-phenylalanine | 0.50 g | N[C@@H](CC(C)C)C(=O)O.N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | trimethylsilyl chloride | 0.536 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | methyl alcohol | 10 ml | CO | CH4O
product | N-L-leucyl-L-phenylalanine methyl ester | 0.53 g | COC([C@@H](NC([C@@H](N)CC(C)C)=O)CC1=CC=CC=C1)=O | C16H24N2O3
